US07459554B2
To a solution of 1-(3-benzyloxy-phenyl)-8-chloro-3-cyclobutyl-imidazo[1,5-a]pyrazine (30 mg, 0.075 mmol) in NMP (0.4 ml) was added isopropylamine (44 mg, 0.75 mmol). The reaction was irradiated in the microwave (200 W, 150° C., 5 min.) and then poured onto water (10 ml) and extracted with EtOAc (2×10 ml). The combined organics were washed with brine (3×10 ml), dried (MgSO4), filtered and evaporated to dryness. Purification by mass-directed HPLC gave [1-(3-Benzyloxy-phenyl)-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-yl]-isopropyl-amine formic acid salt (11.0 mg, 36%) as a colorless solid: 1H NMR (400 MHz, CD3OD) δ 8.21 (s, 1H), 7.49 (d, 3H, J=8.2 Hz), 7.44-7.31 (m, 4H), 7.29 (s, 1H), 7.24-7.17 (m, 2H), 7.04 (d, 1H, J=5.1 Hz), 5.21 (s, 2H), 4.24-4.11 (m, 1H), 4.04-3.94 (m, 1H), 2.64-2.47 (m, 4H), 2.28-2.17 (m, 1H), 2.10-2.01 (m, 1H), 1.14 (d, 6H, J=6.7 Hz), 1H not observed (NH); LCMS (ES+) m/z 413.21 [MH+] at Rt 3.40 min.

reactant | 1-(3-benzyloxy-phenyl)-8-chloro-3-cyclobutyl-imidazo[1,5-a]pyrazine | 0.075 mmol, 30 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)C2CCC2 | C23H20ClN3O
reactant | isopropylamine | 0.75 mmol, 44 mg | C(C)(C)N | C3H9N
reactant | NMP | 0.4 ml | CN1CCCC1=O | C5H9NO
product | [1-(3-Benzyloxy-phenyl)-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-yl]-isopropyl-amine formic acid salt | 11.0 mg, 36% | C(=O)O.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)NC(C)C)C2CCC2 | InChI=1S/C26H28N4O.CH2O2/c1-18(2)28-25-24-23(29-26(20-10-6-11-20)30(24)15-14-27-25)21-12-7-13-22(16-21)31-17-19-8-4-3-5-9-19;2-1-3/h3-5,7-9,12-16,18,20H,6,10-11,17H2,1-2H3,(H,27,28);1H,(H,2,3)
